US07297708B2
3-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-[1-(2,5-dimethoxy-phenyl)-cyclopropyl]-2-methyl-pyrazine
To 46 mg 1-[6-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-methyl-pyrazin-2-yl]-1H-benzotriazole (0.12 mmol) in 200 μL toluene was added 100 μL 0.5 M 2,5-dimethoxyphenyl magnesium bromide in THF. The solution is subjected three times to 3 GHz microwave radiation heating to 150° C. for 15 min. After quenching with saturated ammonium chloride, the organic phase was directly subjected to column chromatography eluting with hexanes DCM followed by hexane ethyl acetate (0.1% Et3N) . Fractions containing the desired product were pooled and concentrated to give a residue that was further purified by RP—HPLC eluting with acetonitrile water (0.03% TFA) giving 2.6 mg of the title compound.

reactant | 1-[6-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-methyl-pyrazin-2-yl]-1H-benzotriazole | 0.12 mmol, 46 mg | ClC1=C(C=C(C(=C1)OC)C)C1=C(N=CC(=N1)N1N=NC2=C1C=CC=C2)C | C19H16ClN5O
reactant | 2,5-dimethoxyphenyl magnesium bromide | 0.5 M, 100 μL | COC1=C(C=C(C=C1)OC)[Mg]Br
reactant | toluene | 200 μL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-Chloro-4-methoxy-5-methyl-phenyl)-5-[1-(2,5-dimethoxy-phenyl)-cyclopropyl]-2-methyl-pyrazine | 2.6 mg | ClC1=C(C=C(C(=C1)OC)C)C=1C(=NC=C(N1)C1(CC1)C1=C(C=CC(=C1)OC)OC)C | C24H25ClN2O3
